US09169261B2
To a solution of 6-(4-hydroxypiperidin-1-yl)pyridazine-3-carboxylic acid (0.10 g, 0.45 mmol, 1 eq) and (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine (0.12 g, 0.44 mmol, 1 eq) in 1 mL of DMSO was added triethylamine (0.19 mL, 0.49 mmol, 1.1 eq) and HATU (0.19 g, 0.49 mmol, 3 eq). The mixture was stirred at room temperature for 30 min then concentrated and purified by HPLC to afford (S)-6-(4-hydroxypiperidin-1-yl)-N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)pyridazine-3-carboxamide (0.12 g, 0.29 mmol, 66%). 1H NMR (400 MHz, CD3OD) δ 8.05 (s, 1 H), 8.02 (d, J=9.8 Hz, 1 H), 7.94 (d, J=5.5 Hz, 1 H), 7.81 (s, 1 H), 7.5 (d, J=9.8 Hz, 1 H), 7.18 (d, J=5.8 Hz, 1 H), 4.98-4.80 (m, 1 H), 4.80-3.80 (br, 4 H), 4.20-4.10 (m, 2 H), 4.00-3.90 (m, 1 H), 3.55-3.45 (m, 2 H), 2.60-2.35 (m, 2 H), 2.05-1.95 (m, 2 H), 1.68-1.55 (m, 2 H); MS: (ES) m/z calculated for C20H24N8O2 [M+H]+ 409.2, found 409.

reactant | 6-(4-hydroxypiperidin-1-yl)pyridazine-3-carboxylic acid | 0.45 mmol, 0.10 g, 1 eq | OC1CCN(CC1)C1=CC=C(N=N1)C(=O)O | C10H13N3O3
reactant | (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine | 0.44 mmol, 0.12 g, 1 eq | N=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)N | C10H13N5
reactant | triethylamine | 0.49 mmol, 0.19 mL, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.49 mmol, 0.19 g, 3 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (S)-6-(4-hydroxypiperidin-1-yl)-N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)pyridazine-3-carboxamide | 0.29 mmol, 0.12 g, 66% | OC1CCN(CC1)C1=CC=C(N=N1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CN2 | C20H24N8O2
